US05578627
To a suspension of 3.43 g of 3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-5-chloro-1,2-benzoisoxazole in 34 ml of methylene chloride is added 1.70 g of chlorosulfonyl isocyanate at -45° to -40° C., and the temperature thereof is elevated to 0° C., after which they are subjected to reaction at the same temperature for one hour. To the reaction mixture is added 10 ml of water and they are subjected to reaction at 20°-25° C. for one hour, after which methylene chloride is removed by distillation under reduced pressure. The crystals obtained are collected by filtration, to obtain 3.30 g of 3-(3-carbamoyloxy-2-tert-butoxycarbonylaminopropoxy)-5-chloro-1,2-benzoisoxazole.

reactant | 3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-5-chloro-1,2-benzoisoxazole | 3.43 g | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=C(C=C2)Cl)CO | C15H19ClN2O5
reactant | chlorosulfonyl isocyanate | 1.70 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | water | 10 ml | O | H2O
solvent | methylene chloride | 34 ml | C(Cl)Cl | CH2Cl2
product | 3-(3-carbamoyloxy-2-tert-butoxycarbonylaminopropoxy)-5-chloro-1,2-benzoisoxazole | 3.30 g | C(N)(=O)OCC(COC1=NOC2=C1C=C(C=C2)Cl)NC(=O)OC(C)(C)C | C16H20ClN3O6
